US07169780B2
N-(4-fluorobenzyl)-5-hydroxy-1-methyl-2-(1-methylpiperidin-2-yl)-6-oxo-1,6-dihydropyrimidine-4-carboxamide
Methyl 5-(benzoyloxy)-1-methyl-6-oxo-2-piperidin-2-yl-1,6-dihydropyrimidine-4-carboxylate (prepared from 1-(benzyloxycarbonyl)piperidine-2-carboxylic acid by procedures similar to those set forth in Examples 1 or 2 in combination with a deprotection step) was suspended in THF and treated with 3 eq. of triethylamine and 3 eq. of methyl iodide at 40° C. After stirring for 5 h, THF was evaporated and residue poured into EtOAc and washed with brine. Organic phase was dried (Na2SO4), filtered and concentrated under reduced pressure. The oily residue was taken into EtOAc and treated with 3 eq. of 4-fluorobenzylamine at 90° C. for 0.5 h. The title product was isolated as its trifluoroacetic salt by preparative RP-HPLC (C18, 5 μM, acetonitrile/water containing 0.1% TFA as eluant).

reactant | Methyl 5-(benzoyloxy)-1-methyl-6-oxo-2-piperidin-2-yl-1,6-dihydropyrimidine-4-carboxylate | C(C1=CC=CC=C1)(=O)OC1=C(N=C(N(C1=O)C)C1NCCCC1)C(=O)OC | C19H21N3O5
reactant | 1-(benzyloxycarbonyl)piperidine-2-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)C(=O)O | C14H17NO4
reactant | triethylamine | 3 eq. | C(C)N(CC)CC | C6H15N
reactant | methyl iodide | 3 eq. | CI | CH3I
reactant | 4-fluorobenzylamine | 3 eq. | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | THF | C1CCOC1 | C4H8O
solvent | acetonitrile water | C(C)#N.O
product | N-(4-fluorobenzyl)-5-hydroxy-1-methyl-2-(1-methylpiperidin-2-yl)-6-oxo-1,6-dihydropyrimidine-4-carboxamide | FC1=CC=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2N(CCCC2)C)C=C1 | C19H23FN4O3
